US04269854
(b) Methyl 6,7,8,9-tetrahydro-5-hydroxy-4,6-dioxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate (III)
Methyl 6,7,8,9-tetrahydro-5-methoxy-4,6-dioxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate (172 mg; 0.5 mmole) in formic acid (5 ml) was heated on a steam bath with ground potassium iodide (800 mg; 4.8 mmole) for 1 hour. The mixture was poured into water and extracted with ethylacetate (3×). The organic fractions were washed with water and dried (sodium sulphate) to yield a brown oil (180 mg) which crystallised on trituration with ethanol. The solid was filtered off and washed with a little ether to give the title compound as a yellow powder (110 mg; 67%) mp 200° (decomposition).

reactant | Methyl 6,7,8,9-tetrahydro-5-methoxy-4,6-dioxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate | 0.5 mmole, 172 mg | COC1=C2C(CCCC2=C(C=2OC(=CC(C21)=O)C(=O)OC)CCC)=O | C19H20O6
reactant | potassium iodide | 4.8 mmole, 800 mg | [I-].[K+]
reactant | water | O | H2O
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | Methyl 6,7,8,9-tetrahydro-5-hydroxy-4,6-dioxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate | 180 mg | OC1=C2C(CCCC2=C(C=2OC(=CC(C21)=O)C(=O)OC)CCC)=O | C18H18O6
